US05536718
4-[[2-(Phenylmethyl)benzoyl]amino]benzoic Acid
A mixture of 4.0 g sodium 4-[[2-(phenylmethyl)benzoyl]amino]benzoate is suspended in water and the pH adjusted to 5 with acetic acid. The solid is collected by filtration and dried at 80° C. in vacuo to give 3.75 g of the desired product, 246°-247° C. M+ =332.

reactant | sodium 4-[[2-(phenylmethyl)benzoyl]amino]benzoate | 4.0 g | C1(=CC=CC=C1)CC1=C(C(=O)NC2=CC=C(C(=O)[O-])C=C2)C=CC=C1.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-[[2-(Phenylmethyl)benzoyl]amino]benzoic Acid | 3.75 g | C1(=CC=CC=C1)CC1=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C21H17NO3
